US05840732
i) Synthesis of 3-benzyl-5-isopropylpyrimidine-2,4,6(1H,3H)-trione
To a suspension of 22.53 g (150 mmol) of benzylurea and 30.34 g (150 mmol) of diethyl isopropylmalonate in 77 ml of methanol, 36.6 ml (150 mmol) of a 4.1M sodium methylate solution was added at room temperature, followed by refluxing for 16 hours. After the reaction mixture was cooled, the solvent was distilled off. After the residue was dissolved in water and insoluble substances were filtered out, the filtrate was adjusted to pH 3-4 by adding concentrated hydrochloric acid. The resulting precipitate was collected by filtration, washed with water and n-hexane-diethyl ether and dried to yield 34.96 g (89.5%, white crystal) of the desired product.

reactant | benzylurea | 150 mmol, 22.53 g | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | diethyl isopropylmalonate | 150 mmol, 30.34 g | C(C)(C)C(C(=O)OCC)C(=O)OCC | C10H18O4
reactant | sodium methylate | 4.1M | C[O-].[Na+]
solvent | methanol | 77 ml | CO | CH4O
product | 3-benzyl-5-isopropylpyrimidine-2,4,6(1H,3H)-trione | C(C1=CC=CC=C1)N1C(NC(C(C1=O)C(C)C)=O)=O | C14H16N2O3
